US07989457B2
Step E. 3-{4-[1-(4′-Isopropyl-2-methyl-biphenyl-4-yl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester
3-{4-[1-(4-Bromo-3-methyl-phenyl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester (460 mg, 0.940 mmol) was dissolved in toluene (2.5 mL), followed by palladium tetrakis triphenylphosphine (46 mg, 0.0395 mmol), 4-isopropyl-phenyl boronic acid (308 mg, 1.88 mmol), and potassium fluoride (109 mg, 1.88 mmol). The reaction was purged with nitrogen and heated to reflux, then the water (2.5 mL) was added. The reaction was monitored by HPLC, and upon completion, allowed to cool to room temperature. The reaction was diluted with EtOAc and then celite added, followed by water. This mixture was then filtered through a pad of celite. The solution was separated in a separatory funnel, then the organic layer was washed with 0.1N sodium hydroxide, water, and brine. The organic layer was dried over anhydrous sodium sulfate, then concentrated. The product was purified by flash column chromatography (444 mg, 0.800 mmol).

reactant | 3-{4-[1-(4-Bromo-3-methyl-phenyl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester | 0.940 mmol, 460 mg | COC(CCNC(C1=CC=C(C=C1)OC(CCCC(C)C)C1=CC(=C(C=C1)Br)C)=O)=O | C25H32BrNO4
reactant | 4-isopropyl-phenyl boronic acid | 1.88 mmol, 308 mg | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | potassium fluoride | 1.88 mmol, 109 mg | [F-].[K+]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{4-[1-(4′-Isopropyl-2-methyl-biphenyl-4-yl)-5-methyl-hexyloxy]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)OC(CCCC(C)C)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(C)C)C)=O)=O | C34H43NO4
